US07985753B2
1-Methyl-5,6-dimethoxy-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 1-Methyl-5,6-dimethoxy-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 1-Methyl-5,6-dimethoxy-3,4-dihydro-isoquinoline | CC1=NCCC2=C(C(=CC=C12)OC)OC | C12H15NO2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Methyl-5,6-dimethoxy-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=C(C(=CC=C12)OC)OC | C12H17NO2
